data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,3058,"COC1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3692,"CC(C)[NH+]([Li-][O+](C1=CCC2(C)C3CCC4=COC=C4C3(C)CCC2C1(C)CO[Si](C)(C)C(C)(C)C)[Si-:1](C)(C)(C)[Cl:2])C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7725,"CC[NH:1][CH:2](C)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8869,"O=C[O-].OCCC[O+:1]=[CH:2]CCC1=C(Br)C=NC=N1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7228,"C[C:1](C=CC(C1(O)C(=O)OC2C(O)COC21O)[OH:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1375,"COC1=C2OC3C(N=[N:1][H:2])CCC4(O)C5CC(=C2C34CCN5)C=C1.[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5845,"C[CH+:1][O:2][H:3].C[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1346,"CO[PH:1](OC)(OC)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,1236,"CC[CH+:1][C:2](C)(C)[H:3]|((2, 3), 1)"
train,pmechdb_split_0,0,4887,"CC(C)[OH:1].CC(C)[O][Al-]([O]C(C)C)([O]C(C)C)[O]C1CCCCC12CCCCC2=[O+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7524,"C1=CC=[NH+]C=C1.COC(=O)C[C:1]1=[C:2](C(=O)OC)[CH:3]([OH2+:4])C[O:5]1.O.[Cl-]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7239,"CC1(C)CCCC[CH:1]=[C:2]1C.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4997,"CC(=CC[C:1](C)=[O:2])[NH:3]CCO.CC(=O)O.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9714,"CC(C)(C)CO.CCOC(=O)N([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[N-:1]C(=O)OCC.O=C1CCC(C(=O)[O:2][H:3])CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,374,"CC1=C[CH:1]=[CH:2]O1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,8644,"CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CCC(C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7867,"CC1=[O+:1][Si-:2](C)(C)(C)[O+]([Ti-]([Cl])([Cl])([Cl])[Cl])C(C)C1|((2, 1), 1)"
train,pmechdb_split_0,0,375,"C[O+:1]([B-](F)(F)F)[C:2](C)(C)[O:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9105,"CC=CC(O[Si](C)(C)C(C)(C)C)[C:1]([O:2][B-](CCCC)(CCCC)[O+:3]=[CH:4]C)=[CH:5]C.CC[NH+](C(C)C)C(C)C.O=S(=O)([O-])C(F)(F)F|(2, 1);((1, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1925,"COC1=C2OC3C45CCN(C)C(CC(=C24)C=C1)C5(O)CCC3([NH2+]N)[O-:1].OCCOCCO.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,146,"C=[N:1]C.C[Si-](C)(C)(Cl)[N+:2](C)=[CH:3][N:4](C)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,3740,"CC[O-:1].C[P+:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,7066,"C[Si](C)(C)C=[C:1]=[CH2:2].C[Si](C)(C)O[S:3](=O)(Cl)=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,806,"CC(=O)[O-].CCCC[N+](CCCC)(CCCC)CCCC.COC1=CC=C([C+:1]=[C:2](I)[C:3](=O)[O-:4])C=C1.O=C1CCC(=O)N1|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8121,"CC#C[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,7417,"CC(C)[O-].CC(C)[O][Al-:1]([O]C(C)C)([O]C(C1=CC=CC=C1)C1CCCCC1)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,390,"CC(=O)O[Si:1](C)(C)C.C[N-:2]C|(2, 1)"
train,pmechdb_split_0,0,4313,"CCCC(CC(=O)OC(C)(C)C)C(=O)[O:1][H:2].CCOC(=O)Cl.CC[N:3](CC)CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7337,"O=C([O-])C1=C(C(=O)[O:1][H:2])C=CC=C1.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10381,"CC1=CC=CC=C1.CC1=C[C:1](C)([H:2])[C:3](C2=CC=CC=C2)=[O+:4]1.O.O=S(=O)(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10321,"COC(=O)[C:1](C)([H:2])[C:3](OC)=[O:4].[H:5][Na:6]|((6, 5), 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8950,"CCCCCCC#CC1OCCCC1[I:1].CC[CH:2](C)[Li:3]|((3, 2), 1)"
train,pmechdb_split_0,0,4486,"C[S+:1](C)Cl.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,7223,"CO.O=C(CCC(C1=CC=CC(Br)=C1)=[O:1])C1=CC=C(Br)C=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3911,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCCCC1)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,6906,"CC(=O)CCC1C2(C)CCCC(C)(C)C2CC[C:1]1(C)[OH2+:2].[I-]|((1, 2), 2)"
train,pmechdb_split_0,0,3976,"C[P:1](C)(Cl)([Mg][Cl])[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,7638,"O=C(O[C:1](C=C(O)CC1=CC=CC=C1)=[O:2])C1=CC=CC=C1.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,818,"CC(C)[O-].CCCCCC[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,6691,"CC(CCC(C)[CH:1](C)[Br:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4284,"CC1=C[CH:1]=[C:2](C)O1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,711,"C[Si](C)(C)OCC[O+](C1(O[Si](C)(C)C)CCC2=C(C=CC=C2)O1)[Si:1](C)(C)C.O=S(=O)(C(F)(F)F)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3183,"CBr.O.O=C1CCC2(O)C3CC4=C5C(=C([O:1][B-:2](O)(Br)Br)C=C4)OC1C52CCN3C1=CC=CC=C1|((2, 1), 1)"
train,pmechdb_split_0,0,2237,"CC(C)C(C(C)C)=[O:1].C[CH](C)[Mg:2][Cl]|(1, 2)"
train,pmechdb_split_0,0,2213,"CC(O)(Cl)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6878,"CCC[C:1]1=[C:2]([O:3]C)C=C[C:4](C[CH2:5][O:6]S(=O)(=O)C2=CC=C(C)C=C2)=[CH:7]1.O=CO|(3, 2);((2, 1), 7);((7, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,7351,"COC(=O)C1CCCC1[N+](C(C)C)(C(C)C)[Li:1].[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,5917,"CCC(=O)N[C+:1]1C=CC(Br)=C[C:2]1(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
